US07947692B2
A mixture of 2-bromo-6-(trifluoromethyl)pyridine (300 mg, 1.33 mmol) in tetrahydrofuran (10 mL) under a nitrogen atmosphere cooled to −78° C. was treated with n-butyl lithium (2M solution in tetrahydrofuran, 0.83 mL, 1.33 mmol). The mixture was stirred at −78° C. for 15 min. At this time, the reaction was treated with 1-boc-4-piperidone (265 mg, 1.33 mmol). The mixture was then allowed to slowly warm to 25° C. and was stirred at 25° C. for 1 h. At this time, the reaction was poured into water. The aqueous layer was extracted with ethyl acetate. The organics were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 4′-hydroxy-6-trifluoromethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (450 mg, 98%) as a yellow oil; LRMS for C16H21F3N2O3 (M+H)+ at m/z=346. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 2-bromo-6-(trifluoromethyl)pyridine | 1.33 mmol, 300 mg | BrC1=NC(=CC=C1)C(F)(F)F | C6H3BrF3N
reactant | n-butyl lithium | 1.33 mmol, 2M, 0.83 mL | C(CCC)[Li]
reactant | 1-boc-4-piperidone | 1.33 mmol, 265 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4′-hydroxy-6-trifluoromethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 450 mg, 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=NC(=CC=C1)C(F)(F)F)O | C16H21F3N2O3
